US07576099B2
A mixture of methyl 4-iodobenzoate (2.62 g, 10 mmol), Et3N (5 ml), acetonitrile (6 ml), Pd(OAc)2 (100 mg, 0.4 mmol) added 1,1,1-trifluoro-2-butene (2.20 g, 20 mmol) was sealed and heated at 125° C. for 20 h. After cooling, the mixture was treated with sat. Aq. Na2CO3 solution and extracted with EtOAc. The combined organic phases were washed with brine, dried (MgSO4), and evaporated. The residue was purified by column chromatography on silica gel to give methyl (e)-methyl 4-(4,4,4-trifluorobut-2-en-2-yl)benzoate and methyl 4-(4,4,4-trifluorobut-1-en-2-yl)benzoate.

reactant | methyl 4-iodobenzoate | 10 mmol, 2.62 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | Et3N | 5 ml | CCN(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-2-butene | 20 mmol, 2.20 g | FC(C=CC)(F)F | C4H5F3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(OAc)2 | 0.4 mmol, 100 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | methyl 4-(4,4,4-trifluorobut-1-en-2-yl)benzoate | FC(CC(=C)C1=CC=C(C(=O)OC)C=C1)(F)F | C12H11F3O2
